US06664291B2
4-(4-Amino-2,6-dimethyl-phenoxy)-2-isopropyl-phenol
To a solution of 4-(2,6-dimethyl-4-nitro-phenoxy)-2-isopropyl-phenol (478 mg, 1.59 mmol) in a mixture of ethanol (10 mL) and EtOAc (30 mL) was added catalyst (10% Pd/C, 100 mg). The mixture was hydrogenated under 50 psi at RT for 2 h. The mixture was filtered through Celite® and concentrated to give the title compound of Step C (458 mg) as a brown solid. The title product of Step C was used without further purification in the next step. MS (APCl−) Calc.: 271.2, Found: 270.2 (M−1).

reactant | 4-(2,6-dimethyl-4-nitro-phenoxy)-2-isopropyl-phenol | 1.59 mmol, 478 mg | CC1=C(OC2=CC(=C(C=C2)O)C(C)C)C(=CC(=C1)[N+](=O)[O-])C | C17H19NO4
solvent | ethanol | 10 mL | C(C)O | C2H6O
solvent | EtOAc | 30 mL | CCOC(=O)C | C4H8O2
catalyst | Pd/C | [Pd] | Pd
product | 4-(4-Amino-2,6-dimethyl-phenoxy)-2-isopropyl-phenol | 458 mg | NC1=CC(=C(OC2=CC(=C(C=C2)O)C(C)C)C(=C1)C)C | C17H21NO2
